US06924374B2
1-(2-Chloro-5-trifluoromethyl-phenyl)-4-propyl-piperazine
Beginning with 1-(2-Chloro-5-trifluoromethyl-phenyl)-piperazine and 1-iodopropane, the title compound was recovered by the procedure described in Example 2. m.p. 234° C. (HCl), MS m/z (rel. intensity, 70 eV) 306 (M+, 20), 279 (34), 277 (bp), 70 (99), 56 (48).

reactant | 1-(2-Chloro-5-trifluoromethyl-phenyl)-piperazine | ClC1=C(C=C(C=C1)C(F)(F)F)N1CCNCC1 | C11H12ClF3N2
reactant | 1-iodopropane | ICCC | C3H7I
product | 1-(2-Chloro-5-trifluoromethyl-phenyl)-4-propyl-piperazine | ClC1=C(C=C(C=C1)C(F)(F)F)N1CCN(CC1)CCC | C14H18ClF3N2
